US09382228B2
A solution of 2-(1,2-dimethyl-1H-imidazol-5-yl)-4-((6-nitropyridin-3-yl)oxy)pyridine (0.08 g, 0.257 mmol) in MeOH (20 mL) was treated with 10% Pd/C (50% w/w water, 2.73 mg, 0.001 mmol) and hydrogenated (1 atm) overnight. The solids were removed via filtration through diatomaceous earth, washed with warm MeOH and the filtrate concentrated to dryness to afford 5-((2-(1,2-dimethyl-1H-imidazol-5-yl)pyridin-4-yl)oxy)pyridin-2-amine (50 mg, 69%). 1H NMR (400 MHz, DMSO-d6): δ 8.41 (d, J=5.8 Hz, 1H), 7.81 (d, J=2.9 Hz, 1H), 7.29 (dd, J=8.9, 3.0 Hz, 1H), 7.23 (s, 1H), 7.13 (d, J=2.4 Hz, 1H), 6.66 (dd, J=5.7, 2.5 Hz, 1H), 6.51 (d, J=8.9 Hz, 1H), 6.02 (s, 2H), 3.80 (s, 3H), 2.32 (s, 3H); MS (ESI) m/z: 282.1 (M+H+).

reactant | 2-(1,2-dimethyl-1H-imidazol-5-yl)-4-((6-nitropyridin-3-yl)oxy)pyridine | 0.257 mmol, 0.08 g | CN1C(=NC=C1C1=NC=CC(=C1)OC=1C=NC(=CC1)[N+](=O)[O-])C | C15H13N5O3
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | 0.001 mmol, 2.73 mg | [Pd] | Pd
product | 5-((2-(1,2-dimethyl-1H-imidazol-5-yl)pyridin-4-yl)oxy)pyridin-2-amine | 50 mg, 69% | CN1C(=NC=C1C1=NC=CC(=C1)OC=1C=CC(=NC1)N)C | C15H15N5O
